US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-(4-fluoro-2-methylphenyl)cyclopropane-1,1-dicarboxamide
N-[6-(4-Amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.46 mmol), 1-[(4-fluoro-2-methylphenyl)carbamoyl]cyclopropanecarboxylic acid (120 mg, 0.51 mmol) and HATU (230 mg, 0.60 mmol) were suspended in N,N-dimethylformamide (3.0 mL), and N,N-diisopropylethylamine (0.16 mL, 0.92 mmol) was added. After stirring at room temperature for 8 hr, the reaction mixture was diluted with ethyl acetate (5.0 mL) and tetrahydrofuran (5.0 mL). The mixture was washed twice with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, ethyl acetate was added to the residue, and the resulting precipitate was collected by filtration. The obtained precipitate was recrystallized from ethanol/water to give the title compound (110 mg, 45%) as a white solid.

reactant | N-[6-(4-Amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.46 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-[(4-fluoro-2-methylphenyl)carbamoyl]cyclopropanecarboxylic acid | 0.51 mmol, 120 mg | FC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)O)C | C12H12FNO3
reactant | HATU | 0.60 mmol, 230 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.92 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-N′-(4-fluoro-2-methylphenyl)cyclopropane-1,1-dicarboxamide | 110 mg, 45% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=C(C=C(C=C2)F)C)F)C1 | C29H25F2N5O4
